US04814506
There was suspended 9.20 g of 2,3-dihydroxypropyltrimethylammonium chloride (chemical purity: 100%) in 50 ml of dimethylformamide, and thereto 6.80 g of thionyl chloride was added at a temperature from 5° to 10° C. After stirring for 20 minutes, it was heated at 100° C. for 5 hours. Finally, after cooling the reaction mixture to room temperature, 9.85 g of 3-chloro-2-hydroxypropyltrimethylammonium chloride was obtained by evaporating the reaction mixture to dryness.

reactant | 2,3-dihydroxypropyltrimethylammonium chloride | 9.20 g | [Cl-].OC(C[N+](C)(C)C)CO
reactant | thionyl chloride | 6.80 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-chloro-2-hydroxypropyltrimethylammonium chloride | 9.85 g | [Cl-].ClCC(C[N+](C)(C)C)O | InChI=1S/C6H15ClNO.ClH/c1-8(2,3)5-6(9)4-7;/h6,9H,4-5H2,1-3H3;1H/q+1;/p-1
